US04588737
1,6-Bis(p-nitrophenyl)-1,5-hexadiene
To a solution of 0.76 g of sodium in 50 ml of absolute EtOH was added 12.25 g of butane-1,4-bis-triphenyl phosphonium bromide. Ten minutes later, 5 g of p-nitrobenzaldehyde was then added. The reaction mixture was stirred at room temperature overnight and the solvent was removed in vacuo. The residue was treated with CH2Cl2. The organic solution was washed with H2O, dried with (MgSO4), and concentrated to give 0.5 g of product as a yellow solid.

reactant | sodium | 0.76 g | [Na] | Na
reactant | p-nitrobenzaldehyde | 5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1,6-Bis(p-nitrophenyl)-1,5-hexadiene | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CCCC=CC1=CC=C(C=C1)[N+](=O)[O-] | C18H16N2O4
